US04889851
To a suspension of 2-(4-chlorophenyl)-6-[1-(ethoxycarbonyl)ethoxyl]-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (400 mg) in a mixture of ethanol (5 ml) and water (5 ml) was added aqueous 1N-sodium hydroxide solution (1.1) ml in one portion. The mixture was refluxed for half hour and concentrated in vacuo. The residue was dissolved in water and washed with ethyl ether. The aqueous layer was acidified with hydrochlonic acid. The separated oil was extracted with ethyl acetate. The organic layer was washed with brine, dried, and evaporated to dryness. The residue was crystallized from a mixture of n-hexane and ethyl acetate to yield 2-(4-chlorophenyl)-6-(1-carboxyethoxy)-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (240 mg).

reactant | 2-(4-chlorophenyl)-6-[1-(ethoxycarbonyl)ethoxyl]-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 400 mg | ClC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)OC(C)C(=O)OCC)(=O)=O | C19H19ClN2O6S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 2-(4-chlorophenyl)-6-(1-carboxyethoxy)-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 240 mg | ClC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)OC(C)C(=O)O)(=O)=O | C17H15ClN2O6S
